Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
hydroxyzine / doxycycline
 
Attending: ___.
 
Chief Complaint:
abdominal pain, weight loss, abnormal LFTs
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
This is a ___ man with distant history of IV heroin use
(from ___, none since), recent tattoos (___), presenting
for evaluation of abnormal liver function tests, abdominal pain,
and weight loss. The patient reports he has seen numerous prior
providers but has yet to receive a diagnosis and continues to
feel ill so he decided to pursue another opinion at ___. 

The patient reports he was felt well until ___ when he fell
from a ladder onto a tree branch. He felt fine immediately
afterwards but about one week later developed intense 
generalized
pruritus and hives. He was evaluated at an urgent care and was
thought to have poison ___ with possible superinfection and
prescribed doxycycline, hydroxyzine, and topical clotrimazole. 
He
took 1 dose of each of these but they made him vomit so he
stopped them. His itching worsened and he presented to ___. He LFTs were found to be abnormal but he signed
out AMA before further workup or treatment. Two days later he
developed new jaundice and dark urine and re-presented to ___. He reports he had extensive workup there including U/S,
CT, and MRI which he reports showed no "blockages" or other
pathology (records not available).  

He followed up with a ___ doctor after discharge and had further
labs checked. HCV RNA was detectable at 39 IU/mL (1.59 log 
IU/mL)
but he reports that the provider did not think this was
consistent with HCV infection nor responsible for his symptoms
(note not available). Given his persistent symptoms, he was told
to present to ___ for further evaluation.

The patient reports numerous new symptoms since ___ 
including
intense generalized pruritus, jaundice (now resolved), skin
erythema, progressive epigastric pain, and 35-pound 
unintentional
weight loss despite normal intake. He denies any nausea,
vomiting, diarrhea, steatorrhea, or early satiety. No fevers,
chills, night sweats, or lymphadenopathy. No known TB- or
HIV-positive contacts or exposures; reports recent negative 
tests
for each. 

In the ED at ___, the patient was afebrile and hemodynamically
stable. Labs found moderate elevated transaminases but normal 
alk
phos and bilirubin. RUQ US showed coarse echogenic liver with
smooth contour and no evidence of biliary pathology. 

On arrival to the floor, the patient's main complaint is ongoing
epigastric pain, ___. No radiation to back or RUQUS. Not worse
or better with food or bowel movements.

REVIEW OF SYSTEMS:  
General: +weight loss. no fevers, chills, sweats.  
Eyes: no vision changes.  
ENT: no odynophagia, dysphagia, neck stiffness.  
Cardiac: no chest pain, palpitations.  
Resp: no cough, shortness of breath, wheezing.  
GI: per HPI
GU: no dysuria, frequency, urgency, flank pain.  
Neuro: no headaches, weakness, numbness, paresthesia.  
MSK: no myalgias or arthralgias.  
Heme: no bleeding or easy bruising.  
Lymph: no swollen lymph nodes.  
Integumentary: +pruritus, +lesions  
Psych: +anxiety, no depression, mania, hallucinations

 
Past Medical History:
PAST MEDICAL HISTORY:  
- GERD (reports he was diagnosed with this at age ___
- Left inguinal hernia repair ___ with recurrent hernia
- Abdominal hernia repair ___
- Social anxiety disorder / agoraphobia
- PTSD
- ADHD

PAST SURGICAL HISTORY:
- Left inguinal hernia repair ___
- Abdominal hernia repair ___
- Tonsillectomy (childhood)

 
Social History:
___
Family History:
No family history of liver or biliary disease.
Mother - ___ disease and ___ thyroiditis, DM2, throat
cancer (smoker)
Not in touch with his father
___ cancer - two uncles
Lung cancer - grandfather
ALS - grandmother

 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
Vitals: reviewed, afebrile and hemodynamically stable
General: Muscular young man in NAD.
HEENT: No icterus or injection. OP moist and clear.
Neck: No lymphadenopathy.
CV: RRR, no murmurs.
Resp: CTAB.
Abd: Soft, non-distended, mildly tender to palpation in
epigastrium, no RUQ tenderness, negative ___, no palpable
HSM.
GU: Tender non-reducible left femoral or inguinal hernia. No
genital lesions.
Extremities: Diffuse circular erythematous macules on bilateral
feet and lower extremities. No edema.
Neuro: Alert, oriented, attentive. Normal strength, 
coordination,
and gait.

DISCHARGE PHYSICAL EXAM: 
========================
Vitals: 24 HR Data (last updated ___ @ 1512)
    Temp: 98.1 (Tm 98.1), BP: 146/89 (108-146/66-89), HR: 70 
(55-70), RR: 18 (___), O2 sat: 99% (99-100), O2 delivery: Ra, 
Wt: 154.76 lb/70.2 kg  
General: Muscular young man in NAD.
HEENT: No icterus or injection. OP moist and clear.
Neck: No lymphadenopathy.
CV: RRR, no murmurs.
Resp: CTAB.
Abd: Soft, non-distended, mildly tender to palpation in 
epigastrium, no RUQ tenderness, negative ___, no palpable 
HSM.
GU: Tender non-reducible left femoral or inguinal hernia. No 
genital lesions.
Extremities: Diffuse circular erythematous macules on bilateral 
feet and lower extremities. No edema.
Neuro: Alert, oriented, attentive. Normal strength, 
coordination, and gait.

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 04:00PM BLOOD WBC-8.3 RBC-4.44* Hgb-13.3* Hct-40.0 
MCV-90 MCH-30.0 MCHC-33.3 RDW-17.6* RDWSD-57.1* Plt ___
___ 04:00PM BLOOD Neuts-44.2 ___ Monos-8.6 Eos-4.5 
Baso-0.8 Im ___ AbsNeut-3.64 AbsLymp-3.44 AbsMono-0.71 
AbsEos-0.37 AbsBaso-0.07
___ 04:00PM BLOOD ___ PTT-30.2 ___
___ 04:00PM BLOOD Glucose-101* UreaN-20 Creat-1.0 Na-139 
K-4.3 Cl-102 HCO3-22 AnGap-15
___ 04:00PM BLOOD ALT-284* AST-105* CK(CPK)-189 AlkPhos-96 
TotBili-1.2
___ 04:00PM BLOOD Lipase-37 GGT-20
___ 04:00PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD Albumin-4.2 Calcium-9.8 Phos-4.8* Mg-2.0 
Iron-110
___ 04:00PM BLOOD calTIBC-443 Ferritn-156 TRF-341
___ 04:00PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 07:56AM BLOOD CRP-0.4
___ 04:00PM BLOOD IgG-1272 IgA-98 IgM-266*
___ 07:56AM BLOOD HIV Ab-NEG
___ 04:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:00PM BLOOD HCV Ab-POS*

MICROBIOLOGY: 
=============
__________________________________________________________
___ 7:56 am SEROLOGY/BLOOD

   RAPID PLASMA REAGIN TEST (Pending): 
__________________________________________________________
___ 7:56 am SEROLOGY/BLOOD

   HELICOBACTER PYLORI ANTIBODY TEST (Pending): 
__________________________________________________________
___ 3:47 pm URINE

   URINE CULTURE (Pending): 

IMAGING: 
========
RUQUS (___)
1. Echogenic and coarsened hepatic parenchyma without focal 
liver lesions, 
splenomegaly, or ascites. 
2. Gallbladder is largely collapsed, limiting evaluation.  
Within this 
limitation, no stones or gallbladder wall thickening.  No 
intrahepatic or 
extrahepatic biliary dilation. 

CXR (___)
PA and lateral views of the chest provided.  Lungs are clear. 
There is no 
focal consolidation, effusion, or pneumothorax.  There are no 
signs of 
congestion or edema.  The cardiomediastinal silhouette is 
normal. Imaged 
osseous structures are intact.  No free air below the right 
hemidiaphragm is seen. 
IMPRESSION:  No acute intrathoracic process. 

DISCHARGE LABS: 
===============
___ 07:56AM BLOOD WBC-6.0 RBC-4.58* Hgb-13.9 Hct-42.4 
MCV-93 MCH-30.3 MCHC-32.8 RDW-17.8* RDWSD-59.9* Plt ___
___ 07:56AM BLOOD ___
___ 07:56AM BLOOD Glucose-91 UreaN-19 Creat-1.2 Na-142 
K-4.5 Cl-102 HCO3-27 AnGap-13
___ 07:56AM BLOOD ALT-276* AST-95* LD(LDH)-166 AlkPhos-91 
TotBili-1.5
___ 07:56AM BLOOD Albumin-4.5 Calcium-9.5 Phos-3.3 Mg-2.___ with h/o IVDU and recent tattoos, referred for further 
evaluation of mixed hepatocellular/cholestatic liver injury 
since ___. 

ACUTE ISSUES
============
#. Subacute liver injury
Patient initially presented to ___ with mixed 
hepatocellular and cholestatic injury and frank jaundice. 
ALT/AST peaked several weeks later at 657/242 and Bili at 4.3. 
His bilirubin has now normalized and transaminases have 
improved, but he continues to have significant abdominal pain 
and malaise. While here, his LFTs appeared stable/slightly 
improved from prior. RUQ U/S was obtained and fairly 
unremarkable. Repeat testing was done to evaluate for causes of 
liver injury including hepatitis panel, antibody screens, and 
serum/urine tox screen. His work-up was only remarkable for HCV 
Ab positivity, as much of the remainder of his labs were still 
pending at discharge. Briefly discussed with hepatology, and 
given that patient's LFTs otherwise appeared stable, he could 
pursue further work-up outpatient. When patient was told that 
hepatolgoy would not see him inpatient, he wished to be 
discharged. The etiology of his liver disease is unclear, though 
concern for possible drug reaction to naltrexone given his 
concurrent rash at the time of new onset transaminitis
[] Please f/u HCV viral load, ___, AMA, ___, IgG
[] Patient has follow-up scheduled for ___ with the liver 
clinic. 

#. Abdominal Pain, epigastric discomfort:
#. Unintentional weight loss:
Patient appears overall well, and normal weight, but reports a 
30lb unintentional weight loss over past 1.5 months despite 
normal intake. In addition, abdominal pain/epigastric pain that 
has started over the last week. RUQ U/S was unremarkable. 
Further work-up did not seem warranted inpatient, and patient 
requested discharge as above. 
[] Patient should follow-up with GI for possible EGD for further 
evaluation, scheduled for liver clinic as above

# Pruritus:
Unclear etiology. Persistent despite resolution of jaundice. 
Small macules appeared more likely to be excoriations. Patient 
was discharged prior to further work-up. 

# GERD:
Patient was placed on PPI 40mg BID while inpatient. H. Pylori 
serum and stool antigen were still pending at discharge. 
[] F/u H.Pylori stool antigen and serum antibody 

# Testicular Discomfort: 
# Incarcerated Inguinal Hernia:
Non reducible hernia in inguinal region on exam. Symptoms 
present for months, no symptoms to suggest strangulation and per 
patient no recent changed. Further evaluation was not completed 
as patient requested discharge as above. 

CHRONIC ISSUES
==============
# History of IVDU:
Denies addiction and denies need for replacement therapy.

# ADHD / PTSD / Anxiety:
Patient reports history of significant psychiatric issues but no 
longer follows with a psychiatrist or takes medication, 
preferring to manage this himself with marijuana. No indication 
for inpatient psychiatric evaluation but would encourage him to
pursue outpatient f/u.

TRANSITIONAL ISSUES
===================
[] HAV Ab negative, needs outpatient immunization
[] F/u H.Pylori stool antigen and serum antibody 
[] Patient should follow-up with GI for possible EGD for further 
evaluation.
[] Please f/u HCV viral load, ___, AMA, ___, IgG
[] Patient has follow-up scheduled for ___ with the liver 
clinic

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Subacute liver injury
Abdominal Pain, epigastric discomfort
Unintentional weight loss
Pruritis
GERD
Testicular Discomfort:  
Incarcerated Inguinal Hernia

SECONDARY
=========
ADHD / PTSD / Anxiety
History of IVDU

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You were brought into the hospital due to concerns for your 
abdominal pain and abnormal liver tests.  

What did you receive in the hospital?  
- While in the hospital we repeated a few lab tests to evaluate 
for possible causes of your liver injury. Many of our tests were 
similar to tests you have received in the past. After discussion 
with our hepatologists, we agreed that the remainder of your 
work-up could be completed as an outpatient.     

What should you do once you leave the hospital?  
- Please continue to take your medications as prescribed. 
- You have an appointment scheduled with our liver doctors ___ 
___ at 12:30 pm. Please keep this appointment so we can 
further investigate the cause of your liver disease. 

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___